US04548944
(a) 3-Acetylphenyliminotriphenyl phosphorane
A mixture of 67.6 gm of 3-amino acetophenone, 101.2 gm of triethylamine and 100 ml of carbon tetrachloride was added to a stirred suspension of 211 gm of triphenylphosphine dibromide in 1700 ml of carbon tetrachloride. After 20 minutes of refluxing, the mixture was filtered and evaporated to dryness. The residual solid was treated with isopropanol, filtered and dried, yielding 140.2 gm of the title compound, m.p. 135°-136° C.

reactant | 3-amino acetophenone | 67.6 gm | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | triethylamine | 101.2 gm | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine dibromide | 211 gm | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | carbon tetrachloride | 1700 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Acetylphenyliminotriphenyl phosphorane | 140.2 gm | C(C)(=O)C=1C=C(C=CC1)N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22NOP
